*****************************************************************
* INFINEON Power Transistors                                    *
* PSPICE Library for                                            *
*       OptiMOS5 LinearFET 80V                                  *
* n-channel Transistors                                         *
* Version 20042021                                              *
*                                                               *
*****************************************************************
*                                                               *
* The Simulation Model is subject to change without notice. In  *
* addition, models can be a useful tool in evaluating device    *
* performance, they cannot reflect the accurate device          *
* performance under all conditions, nor are they intended to    *
* replace bread boarding for final verification. Infineon       *
* therefore does not assume any warranty or liability           *
* whatsoever arising from their use. Infineon does not assume   *
* any warranty or liability for the values and functions of the *
* Simulation Model.                                             *
* The methods and results of the Simulation Model are to the    *
* best of our knowledge                                         *
* correct. However, the user is fully responsible to verify and *
* validate these results under the operating conditions and in  *
* the environment of its application. Infineon will not bear    *
* the responsibility arising out of or in connection with any   *
* malfunction of the Simulation Models.                         *
* Models provided by Infineon are not warranted by Infineon as  *
* completely and comprehensively representing all the           *
* specifications and operating characteristics of the           *
* semiconductor products to which these models relate. The      *
* models describe the characteristics of typical devices. In    *
* all cases, the current data sheet information for a given     *
* device is the conclusive design guideline and the only actual * 
* performance specification.                                    *
*                                                               *
*                                                               *
* This library contains models of the following INFINEON        *
* transistors:                                                  *
*                                                               *  
*   OptiMOS5 LinearFET 80V                                      *
*     IPT013N08NM5LF                                            *
*                                                               *
*****************************************************************
* thermal nodes of level 3 models:                              *
*                                                               *
*  .SUBCKT IPT013N08NM5LF drain gate source Tj Tcase            *
*  Tj :    potential=temperature (in °C) at junction (typically *
*          not connected)                                       *
*  Tcase : node where the boundary contition - external heat    *
*          sinks etc - have to be connected (ideal heat sink    *
*          can be modeled by using a voltage source stating the *
*          ambient temperature in °C between Tcase and ground.  *
*                                                               *
*****************************************************************

.SUBCKT S5_80_lf_var dd g gl s0 sp Tj PARAMS: a=1 Rsp=1 dVth=0 dR=0 dgfs=0 Inn=1
+Unn=1 Rmax=1 gmin=1 Rs=1 Rp=1 dC=0 Rm=1u

.PARAM b0=40.3        b0l=2.15       p0=7.92        p1=-29.8m      p2=53u         mubet=1.3
.PARAM fbet=0         Vth0=3.95      c=1.5          Fm=150m        Fn=500m        al=500m        
.PARAM auth=3.5m      dvx=550m       dvgs=0         auth_sub=3.5m

.PARAM Rd=15m         Rdl=122m        nmu=3.3        Rf=430m

.PARAM lnIsj=-27.7    ndi=1.07       Rdi=5m         nmu2=0         n_Isj=0        UB=85
.PARAM ab=40m         ab2=0          UT=100m        lB=-23         ta=10n

.PARAM kbq=85.8u      Tref=298       T0=273

.PARAM f3=350p        rc1=0p         f3a=60p
.PARAM f3l=20p        rc1l=0p        f3al=4p

.PARAM ps1=15p        ps2=-1.13      ps3=60p
.PARAM ps4=-110m      ps5=15p        ps7=0          pc0=15p

.PARAM ps1l=1p        ps2l=-1.13     ps3l=5p     
.PARAM ps4l=-110m     ps5l=0.776p    ps7l=0         pc0l=1.25p

.PARAM q80=110p       q81=54p        q82=3.38p      qs1=47p         qs2=150p       qs3=-51.1m
.PARAM qs4=65p        qs5=-717.88m   f2r=530m

.PARAM x1={(q80-q81)/q82}       x2={q80/q82}
.PARAM Vmin=2.95      Vmax=4.95      dCmax=330m
.PARAM a0={a}
.PARAM rr={Rd*Rdl/(Rdl-Rd)}
.PARAM Vth={Vth0+(Vmax-Vth0)*limit(dVth,0,1)-(Vmin-Vth0)*limit(dVth,-1,0)}
.PARAM q0={(b0-b0l)*((1-fbet)*(T0/Tref)**mubet+fbet)*a}
.PARAM q1={(Unn-Inn*Rs-Vth0)*q0}
.PARAM q2={(Fm*SQRT(0.4)-c)*Inn*q0}
.PARAM Rlim={(q1+2*q2*Rmax-SQRT(q1**2+4*q2))/(2*q2)}
.PARAM dRd={rr/a+if(dVth==0,limit(dR,0,1)*max(Rlim-(Rd*Rdl/(Rd+Rdl))/a-Rs-Rp,0),0)}
.PARAM dRdl={Rdl/a}
.PARAM bm={c/((1/gmin-Rs)**2*Inn*a*((1-fbet)*(T0/Tref)**mubet+fbet))}
.PARAM bet={(b0-b0l)+(b0-b0l-bm)*if(dR==0,if(dVth==0,limit(dgfs,-1,0),0),0)}
.PARAM betl={b0l}
.PARAM dC1={1+dCmax*limit(dC,0,1)}
.PARAM dC2={1+dCmax*limit(dC,0,1)}

.PARAM Cgs0={((f3-f3l)*a0+(rc1-rc1l))*dC1}
.PARAM Cgs1={(f3a-f3al)*a0*dC1}
.PARAM Cgs0l={(f3l*a+rc1l)*dC1}
.PARAM Cgs1l={f3al*a*dC1}

.PARAM Cds5={qs1*a*dC1}
.PARAM Cds6={(a*qs2*(1+f2r/sqrt(a)))*dC1}
.PARAM Cds7={qs4*a*dC1}
.PARAM Cds8={q80*a*dC1}

.PARAM Cdg1={(a*ps1*(1+pc0*sqrt(a0)))*dC2}
.PARAM Cdg2={ps3*a0*dC2}
.PARAM Cdg3={ps5*a0*dC2}

.PARAM Cdg1l={(a*ps1l*(1+pc0l*sqrt(a)))*dC2}
.PARAM Cdg2l={ps3l*a*dC2}
.PARAM Cdg3l={ps5l*a*dC2}

.PARAM dRdi={Rdi/a}

.FUNC Ue(g,y,w)  {(g-Vth+auth*(w-Tref)+Fm*y**Fn)}
.FUNC Ue1(g,y,w) {Ue(g,y,w)+(1+limit(Ue(g,y,w)+dvx,0,1)**2*(2*limit(Ue(g,y,w)+dvx,0,1)-3))*(dvgs+(auth_sub-auth)*(w-Tref))}

.FUNC I0(Uee,p,pp,z1)  {if(Uee>pp,(Uee-c*z1)*z1,p*(pp-p)/c*exp((Uee-pp)/p))}
.FUNC Ih(Uds,T,p,Uee)  {bet*((1-fbet)*(T0/T)**mubet+fbet)*I0(Uee,p,min(2*p,p+c*Uds),min(Uds,Uee/(2*c)))}
.FUNC Jh(d,g,w,y,s,x)  {a*((Ih(s*y+min(d,0),w,(p0+(p1+p2*w)*w)*kbq*w,Ue1(g,y,w))+exp(min(lB+(d-UB-ab*(w-Tref))/UT,25))))}
.FUNC Ihl(Uds,T,p,Uee) {betl*((1-fbet)*(T0/T)**mubet+fbet)*I0(Uee,p,min(2*p,p+c*Uds),min(Uds,Uee/(2*c)))}
.FUNC Jhl(d,g,w,y,s,x) {a*((Ihl(s*y+min(d,0),w,(p0+(p1+p2*w)*w)*kbq*w,Ue1(g,y,w))+exp(min(lB+(d-UB-ab*(w-Tref))/UT,25))))}

.FUNC Idiode(Usd,Tj,Iss) {exp(min(log(Iss)+Usd/(ndi*kbq*Tj),7))-Iss}
.FUNC Idiod(Usd,Tj)      {a*Idiode(Usd,Tj,exp(min(lnIsj+(Tj/Tref-1)*1.12/(ndi*kbq*Tj),7))*(Tj/Tref)**n_Isj)}

.FUNC Pr(Vss0,Vssp)    {Vss0*Vss0/Rm+Vssp*Vssp/Rsp}
.FUNC Q01(Uds)  {a*(limit(Uds,x1,x2)*(q80-q82/2*limit(Uds,x1,x2))+min(Uds-x1,0)*q81-max(x1,0)*(q80-q81)/2)}

C_Cgs   g      s      {Cgs0}
C_Cgsl  gl     s      {Cgs0l}
C_Cgs1  g      sp     {Cgs1}
C_Cgs1l gl     sp     {Cgs1l}

C_Cds5 d      sp     {Cds5}
E_Eds6 d      edep6  VALUE {if(qs3==0,0,V(d,sp)-(exp(qs3*max(V(d,sp),0))-1)/min(qs3,-1u)-min(V(d,sp),0))}
C_Cds6 edep6  sp     {Cds6}
E_Eds7 d      edep7  VALUE {if(qs5==0,0,V(d,sp)-(exp(qs5*max(V(d,sp),0))-1)/min(qs5,-1u)-min(V(d,sp),0))}
C_Cds7 edep7  sp     {Cds7}
E_Eds8 d      edep8  VALUE {V(d,sp)-Q01(V(d,sp))/Cds8}
C_Cds8 edep8  sp     {Cds8}

E_Edg1 d    ox1 VALUE {if(ps2==0,0,V(d,g)-(exp(ps2*max(V(d,g),0))-1)/min(ps2,-1u)-min(V(d,g),0))}
C_Cdg1 ox1  g   {Cdg1}
E_Edg2 d    ox2 VALUE {if(ps4==0,0,V(d,g)-((exp(ps4*(max(V(d,g)+ps7,0)))-exp(ps4*max(ps7,0)))/min(ps4,-1u)+min(V(d,g)+max(ps7,0),max(0,-ps7))))}
C_Cdg2 ox2  g   {Cdg2}
C_Cdg3 d    g   {Cdg3}

E_Edg1l d    ox1l  VALUE {if(ps2l==0,0,V(d,gl)-(exp(ps2l*max(V(d,gl),0))-1)/min(ps2l,-1u)-min(V(d,gl),0))}
C_Cdg1l ox1l gl    {Cdg1l}
E_Edg2l d    ox2l  VALUE {if(ps4l==0,0,V(d,gl)-((exp(ps4l*(max(V(d,gl)+ps7l,0)))-exp(ps4l*max(ps7l,0)))/min(ps4l,-1u)+min(V(d,gl)+max(ps7l,0),max(0,-ps7l))))}
C_Cdg2l ox2l gl    {Cdg2l}
C_Cdg3l d    gl    {Cdg3l}

Rfp     s sp    {Rsp}

G_chan   d5a   s  VALUE={Jh(V(d5a,s),V(g,s),T0+limit(V(Tj),-200,300),(SQRT(1+4*al*max(V(d5a,s),0))-1)/2/al,sgn(V(d5a,s)),0)}
Rd06     d5a  d5  1u
V_sm     d    d5  0
G_RMos   d1    d  VALUE={V(d1,d)/(Rf*dRd+(1-Rf)*dRd*((limit(V(Tj),-200,999)+T0)/Tref)**nmu)}
V_sense  dd   d1  0

G_chanl   d5al  s    VALUE={Jhl(V(d5al,s),V(gl,s),T0+limit(V(Tj),-200,300),(SQRT(1+4*al*max(V(d5al,s),0))-1)/2/al,sgn(V(d5al,s)),0)}
Rd06l     d5al  d5l  1u
V_sml     dl    d5l  0
G_RMosl   d1l   dl   VALUE={V(d1l,dl)/(Rf*dRdl+(1-Rf)*dRdl*((limit(V(Tj),-200,999)+T0)/Tref)**nmu)}
V_sensel  dd    d1l  0

G_Rdio   d2   d1  VALUE={V(d2,d1)/(dRdi*((limit(V(Tj),-200,999)+T0)/Tref)**nmu2)}
V_sense2 d2   d3  0

Dbody s d3 dbody
.model dbody D (BV= {UB*10},CJO ={Cds7/1000},TT ={ta},IS ={a*exp(lnIsj)} m={0.3} RS={dRdi*1m} n={ndi})


R1       g    s   1G
R1l      gl   s   1G
Rd01     d    s   500Meg
Rd02     d2   s   500Meg
Rd03     d1   d   1k
Rd04     dl    s  500Meg 
Rssp     g    sp  100Meg

Rmet     s    s0  {Rm}

G_TH     0    Tj  VALUE =
+{(I(V_sense)-I(V_sense2))*V(d1,d)+I(V_sm)*V(d,s)+I(V_sense2)*V(d1,s)+I(V_sensel)*V(d1l,s)+Pr(V(s,s0),V(s,sp))}

.ENDS

*****************


.SUBCKT IPT013N08NM5LF drain gate source Tj Tcase PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 Zthtype=0 Ls=1.5n Ld=2n Lg=3n

.PARAM Rs=242u      Rg=4         Rgl=52        Rd=20u       Rm=104u
.PARAM Inn=150      Unn=10       Rmax=1.3m    gmin=62.09
.PARAM RRf=500m     Rrbond=3m    Rtb=2.6      g2=999m
.PARAM act=25.39    Rsp=1.36

.FUNC   Pb(I,dT,Rb)  {Rb/(2*Rtb)*(I-limit(dT/(max(I,1n)*Rb)+RRf*I*g2,0,I))**2}

X1  d1 g gl s sp Tj S5_80_lf_var PARAMS: a={act} Rsp={Rsp} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} gmin={gmin} Rs={Rs} Rp={Rd} dC={dC} Rm={Rm}

.MODEL D01 D(BV=330 CJO=1p VJ=0.9 M=0.5 RS=1k)
.MODEL D02 D(BV=4.5 CJO=1p VJ=0.91 M=0.47)
.MODEL D03 D(BV=5 CJO=1p VJ=0.91 M=0.47 RS=1k)
.MODEL D04 D(BV=30 CJO=1p VJ=0.9 M=0.5)
.MODEL PMOS PMOS ( LEVEL=1 VTO=-2.1 KP=40U LAMBDA=.001 GAMMA=.6 PHI=0.8 TOX=40n CGDO=5E-10 CGSO= 5e-10 CJ=1E-4 CJSW=5E-10
+ MJ=0.5 PB=0.95)
.MODEL NMOS NMOS ( LEVEL=1 VTO=0.9 KP=40U LAMBDA=.001 GAMMA=.6 PHI=0.8 TOX=40n CGDO=5E-10 CGSO= 5e-10 CJ=1E-4 CJSW=5E-10
+ MJ=0.5 PB=0.95)

M1   a1 a2 a3 a3 PMOS L=1.6u W=4.536m
M2   a4 a5 a6 a6 NMOS L=1.6u W=453.6u

G1   d1 a8 VALUE={min(V(d1,a8),1.55)/1.2Meg}
G2   a2 a3 VALUE={if(V(a2,a3)<0,V(a2,a3)/10Meg,V(a2,a3)/1.7Meg)}

D1   a8 d1 D01
D2   a8 a2 D02
D3   s a8 D03
D4   z a7 D04

R2   a8 a5 4.8Meg
R3   a5 s 2.4Meg
R4   a4 a7 39.7 TC=10m
R5   s a6 7.94 TC=10n
R6   z a1 7.9m TC=10m
R7   g1l a3 6.35 TC=10m
R8   a2 a3 1G
R9   d1 a8 100G

Rg   z      g    {Rg}   
Rgl  g1l    gl   {Rgl}   
Lgl  gate   g1l  {Lg*if(dgfs==99,0,1)}

Gs   s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m)-Rm)}
Rsa  s1     s    1Meg
Ls   source s1   {Ls*if(dgfs==99,0,1)}
Rda  d1     d2   {Rd}
Ld   drain  d2   {Ld*if(dgfs==99,0,1)}
Rsb  source s1    10
Rga  gate   g1l   10
Rdb  drain  d2    10

G_TH  0    Tb  VALUE =  {Pb(abs(I(Ls)),V(Tj,Tcase),Rrbond*(1+(limit((V(Tb)+V(Tj))/2,-200,999)-25)*4m))}
Cthb  Tb      0               10.97m
Rthb  Tb      Tj              {Rtb}
Rth1  Tj      t1              {1.29m+limit(Zthtype,0,1)*480.99u}
Rth2  t1      t2              {14.19m+limit(Zthtype,0,1)*5.25m}
Rth3  t2      t3              {31.24m+limit(Zthtype,0,1)*7.27m}
Rth4  t3      t4              {56.3m+limit(Zthtype,0,1)*59.17m}
Rth5  t4      Tcase           {133.98m+limit(Zthtype,0,1)*140.82m}
Cth1  Tj      0               353.49u
Cth2  t1      0               803.3u
Cth3  t2      0               3.31m
Cth4  t3      0               4.47m
Cth5  t4      0               90m
Cth6  Tcase   0               30m


.ENDS

**********

.SUBCKT IPT013N08NM5LF_L1 drain gate source PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 Ls=1.5n Ld=2n Lg=3n 

.PARAM Rs=242u      Rg=4         Rgl=52       Rd=20u       Rm=104u
.PARAM Inn=150      Unn=10       Rmax=1.3m    gmin=62.09
.PARAM act=25.39    Rsp=1.36

X1  d1 g gl s sp Tj1 S5_80_lf_var PARAMS: a={act} Rsp={Rsp} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} gmin={gmin} Rs={Rs} Rp={Rd} dC={dC} Rm={Rm}

.MODEL D01 D(BV=330 CJO=1p VJ=0.9 M=0.5 RS=1k)
.MODEL D02 D(BV=4.5 CJO=1p VJ=0.91 M=0.47)
.MODEL D03 D(BV=5 CJO=1p VJ=0.91 M=0.47 RS=1k)
.MODEL D04 D(BV=30 CJO=1p VJ=0.9 M=0.5)
.MODEL PMOS PMOS ( LEVEL=1 VTO=-2.1 KP=40U LAMBDA=.001 GAMMA=.6 PHI=0.8 TOX=40n CGDO=5E-10 CGSO= 5e-10 CJ=1E-4 CJSW=5E-10
+ MJ=0.5 PB=0.95)
.MODEL NMOS NMOS ( LEVEL=1 VTO=0.9 KP=40U LAMBDA=.001 GAMMA=.6 PHI=0.8 TOX=40n CGDO=5E-10 CGSO= 5e-10 CJ=1E-4 CJSW=5E-10
+ MJ=0.5 PB=0.95)

M1   a1 a2 a3 a3 PMOS L=1.6u W=4.536m
M2   a4 a5 a6 a6 NMOS L=1.6u W=453.6u

G1   d1 a8 VALUE={min(V(d1,a8),1.55)/1.2Meg}
G2   a2 a3 VALUE={if(V(a2,a3)<0,V(a2,a3)/10Meg,V(a2,a3)/1.7Meg)}

D1   a8 d1 D01
D2   a8 a2 D02
D3   s a8 D03
D4   z a7 D04

R2   a8 a5 4.8Meg
R3   a5 s 2.4Meg
R4   a4 a7 39.7 TC=10m
R5   s a6 7.94 TC=10n
R6   z a1 7.9m TC=10m
R7   g1l a3 6.35 TC=10m
R8   a2 a3 1G
R9   d1 a8 100G

C1   a8     d1   3p
 
Rg    z   g    {Rg}   
Rgl   g1l    gl   {Rgl}   
Lgl   gate   g1l  {Lg*if(dgfs==99,0,1)}

Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m)-Rm)}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Rda   d1     d2   {Rd}
Ld    drain  d2   {Ld*if(dgfs==99,0,1)}

E2    Tj     w    VALUE={TEMP}
Vp    Tj1    Tj   0
R1    Tj     Tj1  1u
G_power 0    Tj   VALUE =
+{V(s1,s)*V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m)-Rm)+V(z,g)*V(z,g)/Rg+V(g1l,gl)*V(g1l,gl)/Rgl+V(d1,d2)*V(d1,d2)/Rd+I(Vp)}
R10     w    0    1u

.ENDS

